US07238724B2
(5R)-1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-ethynyl-L-prolinamide
To a stirred solution of (5R)1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-ethynyl-L-proline (1.28 g, 3.38 mmol ) in THF (25 mL) at −15° C. under nitrogen, was added 4-methylmorpholine (0.44 mL, 4.05 mmol), and isobutylchloroformate (0.5 mL, 3.72 mmol) over 2 minutes. The reaction mixture was stirred at −15° C. under nitrogen for 30 minutes, and a solution of 0.5 MNH3 in dioxane (34 mL, 16.90 mmol ) was added. The reaction mixture diluted with water, the pH adjusted to 4 by the addition of 4% KHSO4 and extracted with ethyl acetate (3×). The combined extracts were washed with brine, dried (Na2SO4), filtered and evaporated. The residue was purified by flash column chromatography (5% MeOH/CH2Cl2) to provide the titled compound. MS (CI) m/e 364 (M+H)+.

reactant | (5R)1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-ethynyl-L-proline | 3.38 mmol, 1.28 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@H](C(=O)O)CC[C@@H]1C#C)C1CCCC1 | C19H28N2O5
reactant | 4-methylmorpholine | 4.05 mmol, 0.44 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 3.72 mmol, 0.5 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | dioxane | 16.90 mmol, 34 mL | O1CCOCC1 | C4H8O2
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (5R)-1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-ethynyl-L-prolinamide | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@H](C(=O)N)CC[C@@H]1C#C)C1CCCC1 | C19H29N3O4
